US08138177B2
Step 1. 2-Bromo-N-(2-methoxy-6-nitrophenyl)acetamide
To a flask was added sodium hydride (60% dispersion in mineral oil, 610 mg, 15 mmol) and hexane (2 mL) at 0° C. The supernatant liquid was decanted and the residue was dried under reduced pressure. To this was added THF (20 mL) and a solution of 2-methoxy-6-nitroaniline (2 g, 12 mmol, Kubo, K. et al. J. Med. Chem. 1993, 36, 1772-1784) in THF (20 mL) at 0° C. and stirred at rt for 2 h. To this mixture was added bromoacetyl bromide (1.2 mL, 14 mmol) at 0° C. and stirred at rt for 3 h. Then the reaction mixture was quenched by addition of water (100 mL) and extracted with ethyl acetate (100 mL×2). The combined organic layers were washed with brine (100 mL), dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with hexane/ethyl acetate (2/1-1/1) to afford 2.9 g (85%) of the title compound.

reactant | sodium hydride | 15 mmol, 610 mg | [H-].[Na+]
reactant | hexane | 2 mL | CCCCCC | C6H14
reactant | 2-methoxy-6-nitroaniline | 12 mmol, 2 g | COC1=C(N)C(=CC=C1)[N+](=O)[O-] | C7H8N2O3
reactant | bromoacetyl bromide | 14 mmol, 1.2 mL | BrCC(=O)Br | C2H2Br2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-Bromo-N-(2-methoxy-6-nitrophenyl)acetamide | 2.9 g, 85% | BrCC(=O)NC1=C(C=CC=C1[N+](=O)[O-])OC | C9H9BrN2O4
